US07732448B2
Into 3 ml of N,N-dimethylformamide was resolved 0.3 g of 4-chloro-6-(2-butynyloxy)pyrimidine, 0.57 g of potassium carbonate and 0.25 g of cis-3,5-dimethylpiperidine hydrochloride was added therein, and the mixture was stirred for 40 minutes at 70° C. The reaction mixture was cooled to near room temperature, a saturated ammonium chloride aqueous solution was added therein, and the mixture was extracted with tert-buthyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution three times. The organic layers were dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.41 g of 4-(2-butynyloxy)-6-(cis-3,5-dimethylpiperidino)pyrimidine (hereinafter, referred to as Compound (23)).

reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 0.3 g | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | potassium carbonate | 0.57 g | C([O-])([O-])=O.[K+].[K+]
reactant | cis-3,5-dimethylpiperidine hydrochloride | 0.25 g | Cl.C[C@@H]1CNC[C@@H](C1)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 4-(2-butynyloxy)-6-(cis-3,5-dimethylpiperidino)pyrimidine | 0.41 g | C(C#CC)OC1=NC=NC(=C1)N1C[C@H](C[C@H](C1)C)C | C15H21N3O
